US09315521B2
To a suspension of LAH (1.92 g, 50.85 mmol) in anhydrous THF 40 mL at 0° C. was added dropwise a solution of methyl 5-ethylpyridine-3-carboxylate (4.20 g, 25.42 mmol) in THF (50 mL). After stirring for 1 hour, the reaction mixture was slowly quenched with 15% NaOH and then diluted with water. Ethyl acetate was added, the reaction mixture was stirred for 10 minutes, and the precipitate was filtered off. The solid was washed with ethyl acetate (3×100 mL). The filtrate was dried over anhydrous sodium sulfate, filtered, and evaporated to provide (5-ethylpyridin-3-yl)methanol as a thick oil (3.31 g, 95% yield), which was used in the next step without any further purification; M+137.18.

reactant | LAH | 50.85 mmol, 1.92 g | [H-].[H-].[H-].[H-].[Li+].[Al+3]
reactant | methyl 5-ethylpyridine-3-carboxylate | 25.42 mmol, 4.20 g | C(C)C=1C=C(C=NC1)C(=O)OC | C9H11NO2
solvent | THF | 40 mL | C1CCOC1 | C4H8O
solvent | THF | 50 mL | C1CCOC1 | C4H8O
product | (5-ethylpyridin-3-yl)methanol | 3.31 g, 95% yield | C(C)C=1C=C(C=NC1)CO | C8H11NO
